US07714009B2
2-(2,4-Dimethylphenoxy)-N,N-dipropyl-1,3-benzothiazol-7-amine
To a solution of 2-(2,4-dimethylphenoxy)-1,3-benzothiazol-7-amine (54 mg, 0.200 mmol) in dichloromethane (DCM) (3 ml) was added propionaldehyde (0.058 ml, 0.799 mmol) followed after 30 min by sodium triacetoxyborohydride (169 mg, 0.799 mmol) and AcOH (0.023 ml). The mixture was stirred at room temperature for 15 h. The reaction was quenched with saturated NaHCO3 solution. The aqueous solution was extracted with dichloromethane. The extract was washed with brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by chromatography eluting with 2% AcOEt in n-hexane to afford 57 mg of the title compound.

reactant | 2-(2,4-dimethylphenoxy)-1,3-benzothiazol-7-amine | 0.200 mmol, 54 mg | CC1=C(OC=2SC3=C(N2)C=CC=C3N)C=CC(=C1)C | C15H14N2OS
reactant | propionaldehyde | 0.799 mmol, 0.058 ml | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 0.799 mmol, 169 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 0.023 ml | CC(=O)O | C2H4O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-(2,4-Dimethylphenoxy)-N,N-dipropyl-1,3-benzothiazol-7-amine | 57 mg | CC1=C(OC=2SC3=C(N2)C=CC=C3N(CCC)CCC)C=CC(=C1)C | C21H26N2OS
